US07605168B2
Preparation of 8-[4-(3,4-Dimethoxy-phenyl)-pyrrolo[2,3-b]pyridine-1-sulfonyl]-quinoline 126
Into a Round bottom flask was added 4-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (0.222 g, 0.000873 mol), 50 and Tetra-N-butylammonium bromide (0.0282 g, 0.0000874 mol), and 5.000 M of Sodium hydroxide in Water (2.25 mL). 8-quinoline-sulfonyl chloride (0.238 g, 0.00105 mol) dissolved in Methylene chloride (0.616 mL, 0.00960 mol) was added dropwise at 0 Celsius. The reaction was stirred at ambient temperature for 3 h and the reaction mixture was diliuted with an addional 25 mL of methylene chloride. The organic layer was washed with 1 M sodium bicarbonate (aq.) (30 ml×2) and then with brine. The separated organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (30% ethyl acetate in hexanes) to yield the titled compound as a white solid. MS(ESI) [M+H+]+=446.20.

reactant | 4-(3,4-Dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.000873 mol, 0.222 g | COC=1C=C(C=CC1OC)C1=C2C(=NC=C1)NC=C2 | C15H14N2O2
reactant | Sodium hydroxide | 5.000 M | [OH-].[Na+]
reactant | 8-quinoline-sulfonyl chloride | 0.00105 mol, 0.238 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | Methylene chloride | 0.00960 mol, 0.616 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Tetra-N-butylammonium bromide | 0.0000874 mol, 0.0282 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | Water | 2.25 mL | O | H2O
product | 8-[4-(3,4-Dimethoxy-phenyl)-pyrrolo[2,3-b]pyridine-1-sulfonyl]-quinoline | COC=1C=C(C=CC1OC)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C=2C=CC=C1C=CC=NC21 | C24H19N3O4S
